US07456167B2
Condensation of 1H-indole-6-carboxylic acid with cyclohexanone under basic conditions can generate 3-cyclohexenyl-1H-indole-6-carboxylic acid. This indole ester can be subjected to sequential reduction and esterification to provide methyl 3-cyclohexanyl-1H-indole-6-carboxylate. Treatment of the resultant indole ester with pryridinium tribromide in a mixture of THF and chloroform can generate methyl 2-bromo-3-cyclohexanyl-1H-indole-6-carboxylate. This intermediate can be coupled with a variety of reagents and compounds. For example, 2-formyl-phenyl boronic acids using appropriate palladium catalysts can generate the aromatic aldehyde intermediates shown. These aryl aldehydes are sometimes observed to exist in equilibrium with the related ring-closed hemiaminals, as shown below.

reactant | 1H-indole-6-carboxylic acid | N1C=CC2=CC=C(C=C12)C(=O)O | C9H7NO2
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
reactant | 3-cyclohexenyl-1H-indole-6-carboxylic acid | C1(=CCCCC1)C1=CNC2=CC(=CC=C12)C(=O)O | C15H15NO2
product | methyl 3-cyclohexanyl-1H-indole-6-carboxylate | C1(CCCCC1)C1=CNC2=CC(=CC=C12)C(=O)OC | C16H19NO2
